US07482349B2
Preparation of 2-Amino-3-difluoromethyl-5-[4-fluoro-3-(pyrimidin-5-yl)phenyl]-5-[4-(trifluoromethoxy)phenyl]-3,5-dihydro-4H-imidazol-4one
A solution of 2-amino-5-[4-fluoro-3-(pyrimidin-5-yl)phenyl]-5-[4-(trifluoromethoxy)phenyl]-3,5-dihydro-4H-imidazol-4-one (0.398 g, 0.92 mmol) in dimethylformamide is treated with KOH (0.057 g, 1.01 mmol), cooled to −45° C., and bubbled with chlorodifluoromethane (1.40 g, 17.6 mmol). The reaction vessel is sealed and heated at 70° C. for 18 h. The reaction is cooled to room temperature, quenched by careful addition to water, extracted with ethyl acetate, diluted with brine and extracted again with ethyl acetate. The combined extracts are washed with brine, dried over sodium sulfate and concentrated. The resultant residue is purified twice by flash chromatography (silica, 95:5:0.5 to 90:10:0.5 methylene chloride/methanol/concentrated ammonium hydroxide and 100:0 to 98:2 methylene chloride/methanol as eluents) to afford the title compound as a white solid, 0.064 g (14% yield), mp 82-94° C., identified by HNMR, infrared and mass spectral analyses. 1H NMR (500 MHz, CDCl3) δ 9.21 (s, 1H), 8.89 (s, 2H), 7.64-7.60 (m, 2H), 7.54 (d, J=8.8 Hz, 2H), 7.23-7.18 (m, 3H), 6.95 (t, J=58 Hz, 1H), 4.92 (br s, 2H); IR (ATR) 3497, 3309, 3149, 1761, 1678, 1497, 1449, 1416, 1252, 1212, 1162 cm−1; ESI MS m/z 482 [C21H13F6N5O2+H]+;

reactant | 2-amino-5-[4-fluoro-3-(pyrimidin-5-yl)phenyl]-5-[4-(trifluoromethoxy)phenyl]-3,5-dihydro-4H-imidazol-4-one | 0.92 mmol, 0.398 g | NC1=NC(C(N1)=O)(C1=CC=C(C=C1)OC(F)(F)F)C1=CC(=C(C=C1)F)C=1C=NC=NC1 | C20H13F4N5O2
reactant | KOH | 1.01 mmol, 0.057 g | [OH-].[K+]
reactant | chlorodifluoromethane | 17.6 mmol, 1.40 g | ClC(F)F | CHClF2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Amino-3-difluoromethyl-5-[4-fluoro-3-(pyrimidin-5-yl)phenyl]-5-[4-(trifluoromethoxy)phenyl]-3,5-dihydro-4H-imidazol-4one | 14% yield | NC1=NC(C(N1C(F)F)=O)(C1=CC=C(C=C1)OC(F)(F)F)C1=CC(=C(C=C1)F)C=1C=NC=NC1 | C21H13F6N5O2
